US08466176B2
To a solution of 6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridine-2-carbaldehyde (1.8 g, 5.58 mmol, 1 eq.) in 10 ml of pyridine was added hydroxylamine hydrochloride 0.427 g, 6.14 mmol, 1.1 eq.). The reaction was stirred for 6 hrs and stood overnight. The pyridine was evaporated, and the residue was partitioned between EtOAc and water. The organic layer was separated, dried over MgSO4 and concentrated to give N-({6-[(hydroxyimino)methyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine (1.66 g, 88% yield) as a pale brown solid.

reactant | 6-[({[(1-methyl-1H-tetrazol-5-yl)(phenyl)methylene]amino}oxy)methyl]pyridine-2-carbaldehyde | 5.58 mmol, 1.8 g, 1 eq. | CN1N=NN=C1C(C1=CC=CC=C1)=NOCC1=CC=CC(=N1)C=O | C16H14N6O2
reactant | hydroxylamine hydrochloride | 6.14 mmol, 0.427 g, 1.1 eq. | Cl.NO
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-({6-[(hydroxyimino)methyl]pyridin-2-yl}methoxy)-1-(1-methyl-1H-tetrazol-5-yl)-1-phenylmethanimine | 1.66 g, 88% yield | ON=CC1=CC=CC(=N1)CON=C(C1=CC=CC=C1)C1=NN=NN1C | C16H15N7O2
